US07915250B2
1,1-Dimethylethyl(2S)-2-[1-({3-[(2-fluoro-4-iodophenyl)amino]pyridin-4-yl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate (80 mg, 0.134 mmol), prepared using procedures similar to those described in Example 38, was dissolved in dichloromethane (3 mL) and treated with 3-chloroperoxybenzoic acid (73% pure; 32 mg, 0.135 mmol) at ambient for 7 hours. 3-chloroperoxybenzoic acid (73% pure; 32 mg, 0.135 mmol) was added and the mixture was stirred for 15 hours. The mixture was purified by column chromatography (silica gel, 0-10% ethanol in ethyl acetate) to give 1,1-dimethylethyl(2S)-2-[1-({3-[(2-fluoro-4-iodophenyl)amino]-1-oxidopyridin-4-yl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate (57 mg, 0.093 mmol, 69% yield): 1H NMR (400 MHz, CDCl3): 9.38 (s, 1H), 8.00 (s, 1H), 7.68 (dd, 1H), 7.51 (dd, 1H), 7.46 (d, 1H), 7.19 (br d, 1H), 7.09 (t, 1H), 5.78 (br, 1H), 4.44-3.98 (m, 3H), 3.98-3.87 (m, 1H), 3.49-3.39 (m, 1H), 3.07-2.88 (m, 1H), 2.01-1.91 (m, 1H), 1.70-1.47 (m, 6H), 1.45 (s, 9H); MS (ET) for C25H30FIN4O5: 613 (MH+).

reactant | 1,1-Dimethylethyl(2S)-2-[1-({3-[(2-fluoro-4-iodophenyl)amino]pyridin-4-yl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate | 0.134 mmol, 80 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C(=O)N1CC(C1)(O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C25H30FIN4O4
reactant | 3-chloroperoxybenzoic acid | 0.135 mmol, 32 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-chloroperoxybenzoic acid | 0.135 mmol, 32 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl(2S)-2-[1-({3-[(2-fluoro-4-iodophenyl)amino]-1-oxidopyridin-4-yl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate | 0.093 mmol, 57 mg, 69% yield | FC1=C(C=CC(=C1)I)NC=1C=[N+](C=CC1C(=O)N1CC(C1)(O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)[O-] | C25H30FIN4O5
